2201-08-08 08:28:00 Physician Resident Progress Note
Chief Complaint: 78 Y/O with PMHX of CAD, s/p STEMI in [**2196**] with 3
   vessel disease  on cath with 5 stents placed, Cardiac cath c/b
   pericardial effusion tamponade, s/p evacuation of pericardial thrombus,
   CHF with EF of 50%, AF with h/o RVR, cardiac tompanade s/p
   pericardiotomy, left external iliac arterial clot s/p nstenting and
   embolectomy, COPD, depression and chronic low back pain. Stable AAA. Pt
   presented to the ew with several days of increasing SOB and exhaustion.
   Also found to have a drop in hct from baseline of 40 to 22.8. pt had a
   guiac + brown stool in the ed. Pt received a unit of prbc. BNP was
   4504. pt also had an INR of 4.5 and was given a unit of ffp and vit K.
   pt transferred to the micu for further management and care.
   24 Hour Events:
   One unit PRBC in the ED and one unit on the floor.  HCT this AM 25.9
   (22.8 in ED, down from 40 baseline)
   INR down to 2.1 from 4.5 with one unit FFP and vit. K.
   Given another unit this.
   Seen by GI last night, mostl likely ulcer, endocopy planned for this
   AM. HCT close to 30, PPI IV .
   LENI negative, edema improved this AM.
 ULTRASOUND - At [**2201-8-8**] 03:19 AM
   legs
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-8-8**] 01:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-8-8**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 100 (86 - 100) bpm
   BP: 116/68(79) {116/59(71) - 138/74(90)} mmHg
   RR: 18 (12 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
           Total In:
           385 mL
   PO:
           TF:
   IVF:
   10 mL
   Blood products:
   375 mL
   Total out:
                                                                      0 mL
                                                                  2,065 mL
   Urine:
   2,065 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,680 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   Gen: NAD
   CV: JVD mild, RRR, no Murmurs
   Lungs: diminished BS bilaterally at bases
   ABD: soft, NT, midly distended, BS+.
   EXT: 1+ pitting edema bilateral LE.
   Labs / Radiology
   201 K/uL
   8.1 g/dL
   90 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   102 mEq/L
   140 mEq/L
   25.9 %
   5.3 K/uL
        [image002.jpg]
                             [**2201-8-8**]  03:41 AM
   WBC
   5.3
   Hct
   25.9
   Plt
   201
   Cr
   1.5
   Glucose
   90
   Other labs: PT / PTT / INR:22.8/29.6/2.1, Ca++:8.6 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN: 78 y/o M with PMHx of CAD & CHF presents with lower
   extremity edema & acute hct drop likely due to lower GI bleed in
   setting of elevated INR.
   .
   # GI Bleed: Pt presented with acute hct drop in setting of elevated
   INR, now s/p FFP x 1 and Vitamin K 10mg IV and 2 units PRBCs.  HCT did
   not increase as much as expected ([**3-29**]) but did respond, so this is
   unlikely a brisk GI bleed.  Pt was guaic positive with brown stool,
   etiology of bleed not entirely clear and pt denies any BRBPR/melena,
   nausea/epigastric pain, no prior history GI bleed.  Possible sources
   are a slow upper GI bleed (ulcer vs esophageal varices? ETOH history),
   diverticular bleed.  Slight possibility that thoracic aneurysm is
   bleeding as it has not yet been imaged, but patient is asymptomatic so
   this is unlikely.  Unlikely head, retroperitoneal bleed.
   - maintain active type & cross
   - transfuse 2u prbcs now with lasix 40mg IV in between
   - 2 x PIVs
   - NPO for now, possible EGD in am
   - GI consult
   - PPI IV BID
   -image thoracic aneurysm
   .
   # CHF: Pt has a history CHF s/p MI with depressed EF that has since
   improved, last echo from [**12-29**] showed EF of 50%. Pt reports acute on
   chronic lower extremity swelling but lungs clear on exam. BNP elevated
   at 4054, however, exam not impressive for left sided volume overload
   with clear lungs and minimal oxygen requirement.
   - transfuse with prbcs and lasix 40mg IV between units
   - supplemental oxygen
   - f/u ECHO in am
   - holding Captopril/Metoprolol for now given marginal BP in ED
   - may restart ACE/BB in am
   - monitor strict i/os
   .
   # CAD:  Pt with CAD s/p STEMI and 3VD with 5 [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4401**] placed in [**5-27**].
   Pt reports recent exertional exhaustion but denies chest pain.  This
   could be stable angina, but this is occurring in setting of acute hct
   drop, more likely demand ischemia.  EKG does not show any acute ST-T
   wave changes, will monitor for symptoms
   - continue with prbc transfusions
   - holding Aspirin 81mg given GI bleed, may restart in am
   - will restart Metoprolol, Captopril if hct/BP stable in am
   - holding statin given NPO
   - f/u am EKG
   .
   # AFib: Pt with h/o AFib, presenting with GI bleed and INR>4.  Rate
   currently well controlled in 70s.  Holding BB given marginal BPs on
   presentation.
   - holding coumadin, BB for now
   - monitor on telemetry
   .
   # Lower extremity edema: Pt with impressive lower extremity swelling,
   but does not clinically appear to be in significant left sided heart
   failure and negative hepatojugular reflex. Unclear why pt would have
   predominant right sided heart failure, raises concern for DVT vs pelvic
   clot given pelvic clot.
   - f/u lower extremity u/s to r/o DVT
   - consider venous MRA if clinically indicated in am
   .
   # ETOH: Pt with ETOH history, denies withdrawal but difficult
   historian. Will place on CIWA protocol for now.
   - ativan 1-2mg IV q4 hr prn
   .
   # FEN: NPO for now
   - monitor lytes with diuresis & replete aggressively
   .
   # Access: 2 large bore PIVs
   .
   # PPx: Pneumoboots, PPI
   .
   # Code: FULL confirmed with patient
   .
   # Dispo: ICU for now
   .
   # Comm: with patient and son
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-8-8**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2201-08-09 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   GI: EGD for Monday because not actively bleeding
   Afib with [** **] overnight -HR upto 170s, bp stable  -given 5mg IV Dilt,
   and restarted Lopressor 25mg po bid -HR down to 110s
   HCT: 28.1>>30.2>>30.6>>30.4
   AMS: obtunded since 6am. Unable to stay awake, difficulty swallowing
   pills. AM ABG 7.32/68/76/37 on 100% FiO2. Lactate 1.2. O2 sat 93%.
   -received total of 4 units PRBCs
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2201-8-8**] 10:00 AM
   Pantoprazole (Protonix) - [**2201-8-9**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-8-9**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 105 (89 - 137) bpm
   BP: 110/48(64) {95/48(60) - 140/78(92)} mmHg
   RR: 20 (17 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,845 mL
                                                                     10 mL
   PO:
                                                                    820 mL
             TF:
   IVF:
                                                                    120 mL
                                                                     10 mL
   Blood products:
                                                                    905 mL
   Total out:
                                                                  4,280 mL
                                                                    215 mL
   Urine:
                                                                  4,280 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,435 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92% on 4L nc
   ABG: ///32/
   Physical Examination
   Gen: NAD. Obtunded, difficult to arouse.
   Lungs: End expiratory wheeze at left lung base. No crackles. Decreased
   lung sounds at R base.
   CV: Irregularly irregular. Tachycardic.
   Abd: Soft, NT, Not distended. No rebound or guarding. No ascites.
   Extremities: Warm, well perfused. No edema.
   Neuro: Not alert or oriented this AM.
   Labs / Radiology
   153 K/uL
   9.7 g/dL
   122 mg/dL
   1.4 mg/dL
   32 mEq/L
   3.6 mEq/L
   21 mg/dL
   101 mEq/L
   141 mEq/L
   30.4 %
   7.1 K/uL
        [image002.jpg]
                             [**2201-8-8**]  03:41 AM
                             [**2201-8-8**]  10:30 AM
                             [**2201-8-8**]  02:33 PM
                             [**2201-8-8**]  06:10 PM
                             [**2201-8-9**]  04:07 AM
   WBC
   5.3
   7.1
   Hct
   25.9
   28.1
   30.2
   30.6
   30.4
   Plt
   201
   153
   Cr
   1.5
   1.4
   Glucose
   90
   122
   Other labs: PT / PTT / INR:17.3/27.5/1.6, Ca++:8.6 mg/dL, Mg++:1.8
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   78 y/o M with PMHx of CAD & CHF presents with lower extremity edema &
   acute hct drop likely due to lower GI bleed in setting of elevated INR.
   .# GI Bleed: Pt presented with acute hct drop in setting of elevated
   INR, now s/p FFP x 1 and Vitamin K 10mg IV and 2 units PRBCs.  HCT did
   not increase as much as expected ([**3-29**]) but did respond, so this is
   unlikely a brisk GI bleed.  Pt was guaiac positive with brown stool,
   etiology of bleed not entirely clear and pt denies any BRBPR/melena,
   nausea/epigastric pain, no prior history GI bleed.  Possible sources
   are a slow upper GI bleed (ulcer vs esophageal varices? ETOH history),
   diverticular bleed.  Slight possibility that thoracic aneurysm is
   bleeding as it has not yet been imaged, but patient is asymptomatic so
   this is unlikely.  Unlikely head, retroperitoneal bleed.   Hemolysis
   remains a possibility.
    - maintain active type & cross
   - 2 x PIVs
   - GI recs: EGD on Monday
   - PPI IV BID
   -image thoracic aneurysm
   -HCT stable: 28.1>>30.2>>30.6>>30.4
continue to monitor [**Hospital1 **]
   -hemolysis labs: haptoglobin normal, LDH slightly elevated at 269. But
   HCT stable today. Not concerned for hemolysis currently.
   #Altered mental status: ABG shows primary respiratory acidosis. Given
   history of COPD, most likely hypercarbic respiratory failure [**1-24**]. Probably retains CO2 at baseline.
   -decrease O2 to 4L nasal cannula. Titrate to maintain O2 sat between 88
   and 92%.
   -reeval mental status later this morning. Repeat ABG.
   -start nebulizers given h/o COPD and wheezing on exam
   -trial of CPAP
   -if patient is unable to protect airway or ventilate appropriately, may
   need to be intubated. Will closely monitor patient
s mental status and
   Oxygen requirements.
   .
   # CHF: Pt has a history CHF s/p MI with depressed EF that has since
   improved, last echo from [**12-29**] showed EF of 50%. Pt reports acute on
   chronic lower extremity swelling but lungs clear on exam. BNP elevated
   at 4054.  Possible high output failure [**1-24**] anemia.  LE edema improved
   with diuresis.
    - supplemental oxygen
currently on 4L nc
   - TTE ordered
   -Metoprolol restarted overnight.
   -restart home Captopril this AM
   - monitor strict i/os
   .
   # CAD:  Pt with CAD s/p STEMI and 3VD with 5 [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4401**] placed in [**5-27**].
   Pt reports recent exertional exhaustion but denies chest pain.  This
   could be stable angina, but this is occurring in setting of acute hct
   drop, more likely demand ischemia.  EKG does not show any acute ST-T
   wave changes, will monitor for symptoms
   - restart home ASA 81mg qd
   - will restart Metoprolol, Captopril this AM given stable HCT
   - holding statin until patient tolerating PO
   - am EKGs
   .
   # AFib: Pt with h/o AFib, presenting with GI bleed and INR>4.  Rate
   currently well controlled in 70s.
   -restarted BB overnight
   - holding coumadin
   - monitor on telemetry
   # ETOH: Pt with ETOH history, denies withdrawal but difficult
   historian. Will place on CIWA protocol for now.
   - ativan 1-2mg IV q4 hr prn but did not need overnight.
   .
   # FEN: clear liquid diet
   -          monitor lytes with diuresis & replete aggressively
   -          goal fluid balance: negative 500mL
   .
   # Access: 2 large bore PIVs
   .
   # PPx: Pneumoboots, PPI, bowel regimen
   .
   # Code: FULL confirmed with patient
   .
   # Dispo: ICU for now
   .
   # Comm: with patient and son
   ICU [**Name (NI) **]
   Lines:
   18 Gauge - [**2201-8-8**] 01:00 AM
   Communication:  Comments:

2201-08-09 08:54:00 Physician Attending Progress Note
Chief Complaint: Anemia, GI bleed
   HPI:
   24 Hour Events:
   No clinical evidence of GI bleed.  Received 4 U PRBC total, last
   transfusion yesterday afternoon.  Hct ~30.
   Experienced episode of A-fib (chronic problem) with [**Name (NI) **] --> improved
   with resuming beta-blocker.
   Somnulant this AM, difficult to arouse, unable to reliable swallow
   pills.  ABG= 7.32/68/76
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2201-8-8**] 10:00 AM
   Pantoprazole (Protonix) - [**2201-8-9**] 12:09 AM
   Metoprolol - [**2201-8-9**] 07:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2201-8-9**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 91 (89 - 137) bpm
   BP: 126/60(77) {95/48(60) - 140/78(92)} mmHg
   RR: 20 (18 - 31) insp/min
   SpO2: 83%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,845 mL
                                                                     10 mL
   PO:
                                                                    820 mL
             TF:
   IVF:
                                                                    120 mL
                                                                     10 mL
   Blood products:
                                                                    905 mL
   Total out:
                                                                  4,280 mL
                                                                    365 mL
   Urine:
                                                                  4,280 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,435 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 83%
   ABG: 7.32/68/76.[**Numeric Identifier 128**]/32/5
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Oriented (to): person, "hospital", Movement:
   Purposeful, Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   153 K/uL
   122 mg/dL
   1.4 mg/dL
   32 mEq/L
   3.6 mEq/L
   21 mg/dL
   101 mEq/L
   141 mEq/L
   30.4 %
   7.1 K/uL
        [image002.jpg]
                             [**2201-8-8**]  03:41 AM
                             [**2201-8-8**]  10:30 AM
                             [**2201-8-8**]  02:33 PM
                             [**2201-8-8**]  06:10 PM
                             [**2201-8-9**]  04:07 AM
                             [**2201-8-9**]  08:14 AM
   WBC
   5.3
   7.1
   Hct
   25.9
   28.1
   30.2
   30.6
   30.4
   Plt
   201
   153
   Cr
   1.5
   1.4
   TCO2
   37
   Glucose
   90
   122
   Other labs: PT / PTT / INR:17.3/27.5/1.6, Lactic Acid:1.2 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   GI bleed; altered MS (somnulant).
   GI BLEED -- clinically stable.  No evidence for GI bleed.
   ANEMIA -- attributed to GI blood loss, but not clear site of loss.  GI
   plan for EGD in AM, but will depend on respiratory status.  At this
   time would require intubation for procedure.
   A-FIB -- improved control with resuming beta-blocker.
   SOMNULANCE -- attributable to hypercarbia.  Reduce FiO2, maintain SaO2
   >88%.   Trial non-invasive mask ventilation.
   COPD
 COPD exacerbation.  Rx albuteral & atrovent nebulizer; consider
   steroids.  Supplimental O2 to SaO2 88-92%.
   CAD -- check EKG.  At risk for CHF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-8-8**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2201-08-10 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2201-8-9**] 10:00 AM
 NON-INVASIVE VENTILATION - STOP [**2201-8-9**] 11:03 AM
   O2 sats weaned to 87-92% -on 2L nc
   4pm yesterday -back to baeline mental status; able to swallow meds and
   liquids without problem
   HR 90-100s afib
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2201-8-9**] 07:27 AM
   Pantoprazole (Protonix) - [**2201-8-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-8-10**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 102 (91 - 115) bpm
   BP: 125/76(34) {111/53(34) - 140/88(98)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 98.4 kg (admission): 98 kg
   Height: 66 Inch
             Total In:
                                                                    970 mL
                                                                     10 mL
   PO:
                                                                    450 mL
             TF:
   IVF:
                                                                    520 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                    715 mL
                                                                    300 mL
   Urine:
                                                                    715 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    255 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 425 (425 - 425) mL
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 31%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.36/64/80.[**Numeric Identifier 248**]//7
   Ve: 6.4 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   9.5 g/dL
   122 mg/dL
   1.4 mg/dL
   32 mEq/L
   3.6 mEq/L
   21 mg/dL
   101 mEq/L
   141 mEq/L
   30.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2201-8-8**]  03:41 AM
                             [**2201-8-8**]  10:30 AM
                             [**2201-8-8**]  02:33 PM
                             [**2201-8-8**]  06:10 PM
                             [**2201-8-9**]  04:07 AM
                             [**2201-8-9**]  08:14 AM
                             [**2201-8-9**]  09:52 AM
                             [**2201-8-9**]  11:02 AM
                             [**2201-8-9**]  04:12 PM
                             [**2201-8-10**]  06:08 AM
   WBC
   5.3
   7.1
   4.9
   Hct
   25.9
   28.1
   30.2
   30.6
   30.4
   30.0
   30.7
   Plt
   [**Telephone/Fax (3) 4454**]
   Cr
   1.5
   1.4
   TCO2
   37
   37
   38
   Glucose
   90
   122
   Other labs: PT / PTT / INR:17.3/27.5/1.6, Lactic Acid:1.2 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   78 y/o M with PMHx of CAD & CHF presents with lower extremity edema &
   acute hct drop likely due to lower GI bleed in setting of elevated INR.
   .# GI Bleed: Pt presented with acute hct drop in setting of elevated
   INR, now s/p FFP x 1 and Vitamin K 10mg IV and 2 units PRBCs.  HCT did
   not increase as much as expected ([**3-29**]) but did respond, so this is
   unlikely a brisk GI bleed.  Pt was guaiac positive with brown stool,
   etiology of bleed not entirely clear and pt denies any BRBPR/melena,
   nausea/epigastric pain, no prior history GI bleed.  Possible sources
   are a slow upper GI bleed (ulcer vs esophageal varices? ETOH history),
   diverticular bleed.  Slight possibility that thoracic aneurysm is
   bleeding as it has not yet been imaged, but patient is asymptomatic so
   this is unlikely.  Unlikely head, retroperitoneal bleed.   Hemolysis
   remains a possibility.
    - maintain active type & cross
   - 2 x PIVs
   - GI recs: EGD on Monday
   - PPI IV BID
   -image thoracic aneurysm
   -HCT stable: 28.1>>30.2>>30.6>>30.4
continue to monitor [**Hospital1 **]
   -hemolysis labs: haptoglobin normal, LDH slightly elevated at 269. But
   HCT stable today. Not concerned for hemolysis currently.
   #Altered mental status: ABG shows primary respiratory acidosis. Given
   history of COPD, most likely hypercarbic respiratory failure [**1-24**]. Probably retains CO2 at baseline.
   -decrease O2 to 4L nasal cannula. Titrate to maintain O2 sat between 88
   and 92%.
   -reeval mental status later this morning. Repeat ABG.
   -start nebulizers given h/o COPD and wheezing on exam
   -trial of CPAP
   -if patient is unable to protect airway or ventilate appropriately, may
   need to be intubated. Will closely monitor patient
s mental status and
   Oxygen requirements.
   # CHF: Pt has a history CHF s/p MI with depressed EF that has since
   improved, last echo from [**12-29**] showed EF of 50%. Pt reports acute on
   chronic lower extremity swelling but lungs clear on exam. BNP elevated
   at 4054.  Possible high output failure [**1-24**] anemia.  LE edema improved
   with diuresis.
    - supplemental oxygen
currently on 4L nc
   - TTE ordered
   -Metoprolol restarted overnight.
   -restart home Captopril this AM
   - monitor strict i/os
   # CAD:  Pt with CAD s/p STEMI and 3VD with 5 [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4401**] placed in [**5-27**].
   Pt reports recent exertional exhaustion but denies chest pain.  This
   could be stable angina, but this is occurring in setting of acute hct
   drop, more likely demand ischemia.  EKG does not show any acute ST-T
   wave changes, will monitor for symptoms
   - restart home ASA 81mg qd
   - will restart Metoprolol, Captopril this AM given stable HCT
   - holding statin until patient tolerating PO
   - am EKGs
   # AFib: Pt with h/o AFib, presenting with GI bleed and INR>4.  Rate
   currently well controlled in 70s.
   -restarted BB overnight
   - holding coumadin
   - monitor on telemetry
   # ETOH: Pt with ETOH history, denies withdrawal but difficult
   historian. Will place on CIWA protocol for now.
   - ativan 1-2mg IV q4 hr prn but did not need overnight.
   # FEN: clear liquid diet
   -          monitor lytes with diuresis & replete aggressively
   -          goal fluid balance: negative 500mL
   # Access: 2 large bore PIVs
   # PPx: Pneumoboots, PPI, bowel regimen
   # Code: FULL confirmed with patient
   # Dispo: ICU for now
   # Comm: with patient and son
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-8-8**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2201-08-11 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tolerated EGD well. Sedated with fentanyl and versed.  Maintained sats
   90% during procedure. Dropped to 80% briefly after procedure.
   EGD findings: consistent with gastritis -erythema, friability, contact
   bleeding of whole stomach
   recs: PPI [**Hospital1 **], outpatient colonoscopy, check H pylori serology, treat
   if positive
   overnight became more disoriented, restless, didn't sleep well
   afib: rate 90s - 100s
   ECHO: The left atrium is elongated. Left ventricular wall thicknesses
   and cavity size are normal. LVEF 50%. The aortic root is moderately
   dilated at the sinus level. The ascending aorta is moderately dilated.
   The aortic arch is moderately dilated. Mild (1+) aortic regurgitation
   is seen. There is borderline pulmonary artery systolic hypertension.
   Compared with the prior study (images reviewed) of [**2200-1-1**], the
   ascending aorta appears more dilated 4.6 cm vs. 3.8 cm.
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2201-8-10**] 02:25 PM
   Midazolam (Versed) - [**2201-8-10**] 02:30 PM
   Furosemide (Lasix) - [**2201-8-10**] 07:46 PM
   Pantoprazole (Protonix) - [**2201-8-11**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-8-11**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 100 (86 - 119) bpm
   BP: 126/18(35) {93/18(35) - 137/96(101)} mmHg
   RR: 25 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 98.4 kg (admission): 98 kg
   Height: 66 Inch
             Total In:
                                                                    600 mL
                                                                     10 mL
   PO:
                                                                    590 mL
             TF:
   IVF:
                                                                     10 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    450 mL
   Urine:
                                                                  1,090 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   155 K/uL
   9.6 g/dL
   107 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   26 mg/dL
   99 mEq/L
   140 mEq/L
   30.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2201-8-8**]  10:30 AM
                             [**2201-8-8**]  02:33 PM
                             [**2201-8-8**]  06:10 PM
                             [**2201-8-9**]  04:07 AM
                             [**2201-8-9**]  08:14 AM
                             [**2201-8-9**]  09:52 AM
                             [**2201-8-9**]  11:02 AM
                             [**2201-8-9**]  04:12 PM
                             [**2201-8-10**]  06:08 AM
                             [**2201-8-11**]  03:28 AM
   WBC
   7.1
   4.9
   8.0
   Hct
   28.1
   30.2
   30.6
   30.4
   30.0
   30.7
   30.9
   Plt
   153
   144
   155
   Cr
   1.4
   1.3
   1.5
   TCO2
   37
   37
   38
   Glucose
   122
   138
   107
   Other labs: PT / PTT / INR:16.5/25.4/1.5, Lactic Acid:1.2 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL ABUSE
   78 y/o M with PMHx of COPD, CAD & CHF presents with lower extremity
   edema, SOB, & acute hct drop likely due to lower GI bleed in setting of
   elevated INR.
   .# GI Bleed: Pt presented with acute hct drop in setting of elevated
   INR, now s/p FFP x 1 and Vitamin K 10mg IV and 2 units PRBCs.  HCT did
   not increase as much as expected ([**3-29**]) but did respond, so this is
   unlikely a brisk GI bleed.  Pt was guaiac positive with brown stool,
   etiology of bleed not entirely clear and pt denies any BRBPR/melena,
   nausea/epigastric pain, no prior history GI bleed.
   -EGD shows gastritis. No abnormalities in esophagus or duodenum.  Rec
   starting PPI [**Hospital1 **]. Outpatient colonoscopy.
   -HCT stable > 30.0 for 2 days.
    - PPI IV BID
    -hemolysis labs: haptoglobin normal, LDH slightly elevated at 269. But
   HCT stable today. Not concerned for hemolysis currently.
   -image thoracic aneurysm: currently stable, though more dilated than
   previous ECHO in [**2199-12-23**]
    #Altered mental status: ABG shows primary respiratory acidosis. Given
   history of COPD, most likely hypercarbic respiratory failure [**1-24**]. Probably retains CO2 at baseline.
    -AMS resolved. Currently on 2L O2 nc.  Titrate to maintain O2 sat
   between 88 and 92%.
   -continue nebulizers given h/o COPD. Increase frequency of nebulizers.
   Patient is wheezy on exam today.
    -if decompensates, trial of CPAP. Currently stable from respiratory
   standpoint.
   # CHF: Pt has a history CHF s/p MI with depressed EF that has since
   improved, echo shows EF 55%.  Pt reports acute on chronic lower
   extremity swelling but lungs clear on exam. BNP elevated at 4054.  LE
   edema improved with diuresis.
     - supplemental oxygen
currently on 2L nc
   -continue metoprolol and captopril
   - monitor strict i/os
goal negative 500.
   # CAD:  Pt with CAD s/p STEMI and 3VD with 5 [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4401**] placed in [**5-27**].
   Pt reports recent exertional exhaustion but denies chest pain.  This
   could be stable angina, but this is occurring in setting of acute hct
   drop, more likely demand ischemia.  EKG does not show any acute ST-T
   wave changes, will monitor for symptoms
   -continue home ASA, Captopril, Metoprolol
   - restart home statin given that he can now take po
   - am EKGs
   # AFib: Pt with h/o AFib, presenting with GI bleed and INR>4.  Rate
   currently well controlled in 90s.
    -continue BB
    - holding coumadin
    - monitor on telemetry
   # ETOH: Pt with ETOH history, denies withdrawal but difficult
   historian. Will place on CIWA protocol for now.
    - ativan 1-2mg IV q4 hr prn but hasn
t been needing this at all.
   # FEN: clear liquid diet
advance as tolerated
   -          monitor lytes with diuresis & replete aggressively
   -          goal fluid balance: negative 500mL
   # Access: 2 large bore PIVs
   # PPx: Pneumoboots, PPI, bowel regimen
   # Code: FULL confirmed with patient
   # Dispo: Called out.
   # Comm: with patient and son

2201-08-11 11:49:00 Physician Attending Progress Note
Chief Complaint: Anemia; Dyspnea
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2201-8-10**] 10:28 AM
   Performed EGD --> gastritis, friable.
   Aggitation at night, poor quality sleep.
   More awake during day, more awake.
   Using open face mask, as pt. removed nasal cannula.
   Very talkative today, good spirits, joking.  Somewhat confused as to
   orientation.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2201-8-10**] 02:25 PM
   Midazolam (Versed) - [**2201-8-10**] 02:30 PM
   Furosemide (Lasix) - [**2201-8-10**] 07:46 PM
   Pantoprazole (Protonix) - [**2201-8-11**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2201-8-11**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 83 (83 - 112) bpm
   BP: 128/80(92) {93/18(35) - 137/96(101)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 98.4 kg (admission): 98 kg
   Height: 66 Inch
             Total In:
                                                                    600 mL
                                                                     10 mL
   PO:
                                                                    590 mL
             TF:
   IVF:
                                                                     10 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    450 mL
   Urine:
                                                                  1,090 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal), No(t) S3, No(t) S4, No(t) Rub, (Murmur:
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   prolonged expiratory phase, but improved
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   155 K/uL
   107 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   26 mg/dL
   99 mEq/L
   140 mEq/L
   30.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2201-8-8**]  10:30 AM
                             [**2201-8-8**]  02:33 PM
                             [**2201-8-8**]  06:10 PM
                             [**2201-8-9**]  04:07 AM
                             [**2201-8-9**]  08:14 AM
                             [**2201-8-9**]  09:52 AM
                             [**2201-8-9**]  11:02 AM
                             [**2201-8-9**]  04:12 PM
                             [**2201-8-10**]  06:08 AM
                             [**2201-8-11**]  03:28 AM
   WBC
   7.1
   4.9
   8.0
   Hct
   28.1
   30.2
   30.6
   30.4
   30.0
   30.7
   30.9
   Plt
   153
   144
   155
   Cr
   1.4
   1.3
   1.5
   TCO2
   37
   37
   38
   Glucose
   122
   138
   107
   Other labs: PT / PTT / INR:16.5/25.4/1.5, Lactic Acid:1.2 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) -- serial
   Hct stable >30.  Attributed to gastritis.
   COPD -- Exacerbation.  Improved.  Continue current medications, taper
   steroids.
   GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB) -- attributed to
   gastritis.  No further evidence for GI bleeding.
   ALTERED MENTAL STATUS (NOT DELIRIUM) -- improved, but unclear whether
   current exam is at baseline.  [**Month (only) 60**] experience 'sundowning.'  Monitor .
    HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC -- mild;  continue
   net diuresis.  Maintain Hct>30.
   CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE) -- stable.
   ATRIAL FIBRILLATION (AFIB) -- good rate control.  Hold coumadin -->
   resume when acceptable to GI service.
   Thoracic aneurysm
 evidence by echo for expansion near root.  Consider
   repeat Thoracic CT scan.
   AAA
 no evidence for enlaragement.  Monitor.
   ALCOHOL ABUSE -- no evidence for withdrawal.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2201-8-8**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2201-08-12 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient stayed in MICU last night because tachycardic. HR 150-170s
   while standing. Given additional dose of Lopressor 12.5mg.  Also
   increased [**Hospital1 **] dose to 37.5.  Since then HR in 90-100s.
   Coumadin restarted.
   Creatinine this AM 1.6.  Up from 1.5 yesterday and 1.3 day prior.
   Per son, at baseline mental status.
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-8-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-8-12**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 96 (83 - 148) bpm
   BP: 121/74(85) {89/35(49) - 139/88(104)} mmHg
   RR: 22 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 98.4 kg (admission): 98 kg
   Height: 66 Inch
             Total In:
                                                                    440 mL
                                                                     70 mL
   PO:
                                                                    180 mL
                                                                     60 mL
   TF:
   IVF:
                                                                     20 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    250 mL
   Urine:
                                                                  1,525 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,085 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   9.7 g/dL
   118 mg/dL
   1.6 mg/dL
   33 mEq/L
   4.3 mEq/L
   33 mg/dL
   100 mEq/L
   140 mEq/L
   31.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2201-8-8**]  02:33 PM
                             [**2201-8-8**]  06:10 PM
                             [**2201-8-9**]  04:07 AM
                             [**2201-8-9**]  08:14 AM
                             [**2201-8-9**]  09:52 AM
                             [**2201-8-9**]  11:02 AM
                             [**2201-8-9**]  04:12 PM
                             [**2201-8-10**]  06:08 AM
                             [**2201-8-11**]  03:28 AM
                             [**2201-8-12**]  03:58 AM
   WBC
   7.1
   4.9
   8.0
   6.8
   Hct
   30.2
   30.6
   30.4
   30.0
   30.7
   30.9
   31.5
   Plt
   153
   144
   155
   146
   Cr
   1.4
   1.3
   1.5
   1.6
   TCO2
   37
   37
   38
   Glucose
   122
   138
   107
   118
   Other labs: PT / PTT / INR:16.8/26.7/1.5, Lactic Acid:1.2 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   78 y/o M with PMHx of COPD, CAD & CHF presents with lower extremity
   edema, SOB, & acute hct drop likely due to lower GI bleed in setting of
   elevated INR.
   .# GI Bleed: Pt presented with acute hct drop in setting of elevated
   INR, now s/p FFP x 1 and Vitamin K 10mg IV and 2 units PRBCs.  HCT did
   not increase as much as expected ([**3-29**]) but did respond, so this is
   unlikely a brisk GI bleed.  Pt was guaiac positive with brown stool,
   etiology of bleed not entirely clear and pt denies any BRBPR/melena,
   nausea/epigastric pain, no prior history GI bleed.
   -EGD shows gastritis. No abnormalities in esophagus or duodenum.  Rec
   starting PPI [**Hospital1 **]. Outpatient colonoscopy.
   -HCT stable > 30.0
   -thoracic aneurysm: currently stable, though more dilated than previous
   ECHO in [**2199-12-23**]
    #Altered mental status: ABG shows primary respiratory acidosis. Given
   history of COPD, most likely hypercarbic respiratory failure [**1-24**]. Probably retains CO2 at baseline.
    -AMS resolved. Currently on 2L O2 nc.  Titrate to maintain O2 sat
   between 88 and 92%.
    #COPD
   -continue nebulizers given h/o COPD. Taper prednisone.
    -if decompensates, trial of CPAP. Currently stable from respiratory
   standpoint.
   # Acute on chronic diastolic heart failure: Pt has a history CHF s/p MI
   with depressed EF that has since improved, echo shows EF 55%.  Pt
   reports acute on chronic lower extremity swelling but lungs clear on
   exam. BNP elevated at 4054.  LE edema improved with diuresis.
     - supplemental oxygen
currently on 2L nc
   -continue metoprolol and captopril
   - monitor strict i/os
goal negative 500.
   # CAD:  Pt with CAD s/p STEMI and 3VD with 5 [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4401**] placed in [**5-27**].
   Pt reports recent exertional exhaustion but denies chest pain.  This
   could be stable angina, but this is occurring in setting of acute hct
   drop, more likely demand ischemia.  EKG does not show any acute ST-T
   wave changes, will monitor for symptoms
   -continue home ASA, Captopril, Metoprolol
   - restart home statin given that he can now take po
   - am EKGs
   # AFib: Pt with h/o AFib, presenting with GI bleed and INR>4.  Rate
   currently well controlled in 90s.  But goes up to 150s - 170s.
   Admission note says patient was on Amiodarone. Unclear if this was just
   prior to hospitalization or in the distant past.  Will confer with son
   and PCP outpatient regimen for afib.
    -continue Lopressor 37.5mg [**Hospital1 **].
   -continue Coumadin
    - monitor on telemetry
   # ETOH: Pt with ETOH history, denies withdrawal but difficult
   historian. Will place on CIWA protocol for now.
    - ativan 1-2mg IV q4 hr prn but hasn
t been needing this at all.
   # FEN: regular diet
   -          monitor lytes with diuresis & replete aggressively
   -          goal fluid balance: negative 500mL
   # Access: 2 large bore PIVs
   # PPx: Pneumoboots, PPI, bowel regimen
   # Code: FULL confirmed with patient
   # Dispo: Call out if HR well controlled.
   # Comm: with patient and son
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-8-8**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2201-08-12 11:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress; anemia
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Appears much more comfortable, overall.
   Heart rate control improved with increased beta-blocker.
   Mental status at baseline according to family members.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-8-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2201-8-12**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 93 (90 - 148) bpm
   BP: 117/60(73) {89/35(49) - 139/100(105)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 98.4 kg (admission): 98 kg
   Height: 66 Inch
             Total In:
                                                                    440 mL
                                                                    490 mL
   PO:
                                                                    180 mL
                                                                    480 mL
   TF:
   IVF:
                                                                     20 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    950 mL
   Urine:
                                                                  1,525 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,085 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///33/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: ),
   prolonged expiratory phase
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   146 K/uL
   118 mg/dL
   1.6 mg/dL
   33 mEq/L
   4.3 mEq/L
   33 mg/dL
   100 mEq/L
   140 mEq/L
   31.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2201-8-8**]  02:33 PM
                             [**2201-8-8**]  06:10 PM
                             [**2201-8-9**]  04:07 AM
                             [**2201-8-9**]  08:14 AM
                             [**2201-8-9**]  09:52 AM
                             [**2201-8-9**]  11:02 AM
                             [**2201-8-9**]  04:12 PM
                             [**2201-8-10**]  06:08 AM
                             [**2201-8-11**]  03:28 AM
                             [**2201-8-12**]  03:58 AM
   WBC
   7.1
   4.9
   8.0
   6.8
   Hct
   30.2
   30.6
   30.4
   30.0
   30.7
   30.9
   31.5
   Plt
   153
   144
   155
   146
   Cr
   1.4
   1.3
   1.5
   1.6
   TCO2
   37
   37
   38
   Glucose
   122
   138
   107
   118
   Other labs: PT / PTT / INR:16.8/26.7/1.5, Lactic Acid:1.2 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   GI BLEED
 attributed to diffuse gastritis, probable chronic ooze.
   Biopsy and cultures pending.   Clinically stable.
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 stable
   Hct, following 4 U PRBC transfusion.
   COPD EXACERBATION
 improved.  Continue MDI, steroid
 taper.  Monitor
   exam.  Avoid hyperoxia, maintain SaO2 88-92%.
   ALTERED MENTAL STATUS
 improved.  Multifactorial, including CO2
   retension, medications, ICU psychosis.
   HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 mild component  in
   context of PRBC resussitation.  Improved.
   CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 No act disease.
   ATRIAL FIBRILLATION (AFIB)
 improved rate control.  Consider
   antitcoagulation.
   ALCOHOL ABUSE
 no acute withdrawal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-8-12**] 10:37 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes